US07335673B2
Thus obtained 3-amino-4-methoxyphenylacetic acid ethyl ester (6.06 g, 29 mmol) was dissolved in toluene (200 mL), added with benzaldehyde (2.94 mL, 29 mmol), and refluxed under heating at 130° C. for 14 hours. The reaction mixture was cooled to room temperature, evaporated under reduced pressure so as to remove the solvent, and the resultant residue was dissolved in tetrahydrofuran (200 mL), and added drop-wisely with a 2 mol/L lithium diisopropylamide solution (heptane/tetrahydrofuran/ethylbenzene solution, 15.9 mL, 32 mmol) while keeping the temperature thereof at −78° C. The mixture was heated to −20° C., stirred for 10 minutes, cooled again to −78° C., and at that temperature added drop-wisely with a tetrahydrofuran solution (80 mL) of 4-nitrobenzyl bromide (6.88 g, 32 mmol). The mixture was then heated to room temperature, and 2-[3-(benzylideneamino)-4-methoxy phenyl]-3-(4-nitrophenyl)propionic acid ethyl ester was produced in the reaction solution. Next as a series of processing, the reaction solution was then treated with a 1 mol/L hydrochloric acid (150 mL), the separated aqueous phase was added with an aqueous saturated sodium hydrogen carbonate solution so as to adjust pH of the solution as high as 7 or above, and extracted with ethyl acetate, which series was repeated three times. The ethyl acetate phase was dried over anhydrous sodium sulfate, evaporated under reduced pressure so as to remove the solvent, and the resultant residue was purified through silica gel column chromatography (hexane:ethyl acetate (v/v)=2:1) to thereby obtain 2-(3-amino-4-methoxyphenyl)-3-(4-nitrophenyl)propionic acid ethyl ester (yield: 5.63 g, yield ratio: 56%) as an orange syrup.

reactant | 3-amino-4-methoxyphenylacetic acid ethyl ester | 29 mmol, 6.06 g | C(C)OC(CC1=CC(=C(C=C1)OC)N)=O | C11H15NO3
reactant | benzaldehyde | 29 mmol, 2.94 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | lithium diisopropylamide | 32 mmol, 2 mol/L, 15.9 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | 4-nitrobenzyl bromide | 32 mmol, 6.88 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
product | 2-[3-(benzylideneamino)-4-methoxy phenyl]-3-(4-nitrophenyl)propionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)[N+](=O)[O-])C1=CC(=C(C=C1)OC)N=CC1=CC=CC=C1)=O | C25H24N2O5
